US08278482B2
Benzyl 4-((2-(dimethylamino)ethyl)(methyl)amino)-2-methyl-4-oxobutan-2-ylcarbamate (2.08 g, 6.2 mmol) was dissolved in a solution of ethanol (4 ml) and methyl iodide (30 ml). The mixture was stirred at 50° C. for 18 hours. The reaction mixture was concentrated in vacuo and dissolved in water. The aqueous mixture was washed with ethyl acetate. The washed aqueous mixture concentrated in vacuo to give 2.19 g (74%) of 2-(3-(benzyloxycarbonylamino)-N,3-dimethylbutanamido)-N,N,N-trimethylethanaminium iodide. MS (ESI+) calculated for C19H32N3O3+: 350.24, Found: 350.2 (M+).

reactant | Benzyl 4-((2-(dimethylamino)ethyl)(methyl)amino)-2-methyl-4-oxobutan-2-ylcarbamate | 6.2 mmol, 2.08 g | CN(CCN(C(CC(C)(C)NC(OCC1=CC=CC=C1)=O)=O)C)C | C18H29N3O3
reactant | methyl iodide | 30 ml | CI | CH3I
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-(3-(benzyloxycarbonylamino)-N,3-dimethylbutanamido)-N,N,N-trimethylethanaminium iodide | 2.19 g, 74% | [I-].C(C1=CC=CC=C1)OC(=O)NC(CC(=O)N(C)CC[N+](C)(C)C)(C)C | InChI=1S/C19H31N3O3.HI/c1-19(2,14-17(23)21(3)12-13-22(4,5)6)20-18(24)25-15-16-10-8-7-9-11-16;/h7-11H,12-15H2,1-6H3;1H
